US04914112
To the mixture of acetic acid (16 ml) and water (4 ml) was added 3-methylamino-5-(1-(3-(2-phenyl-1,3-dioxolan-2-yl)phenyl)ethyl)-1,2,4-oxadiazole (0.643 g, 2.44 mmol). After the mixture was stirred at room temperature overnight, the mixture was evaporated under reduced pressure to a residue, which was extracted with dichloromethane after saturated NaHCO3 aq. was added. The extracts were washed with water, dried with anhydrous magnesium sulfate, and evaporated under reduced pressure to a residue, which was chromatographed and recrystallized with ethyl acetate and n-hexane to afford 3-methylamino-5-(1-(3-benzoylphenyl)ethyl)-1,2,4-oxadiazole (0.446 g, 59% yield) as crystalline material: mp 100°-101° C.

reactant | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
reactant | 3-methylamino-5-(1-(3-(2-phenyl-1,3-dioxolan-2-yl)phenyl)ethyl)-1,2,4-oxadiazole | 2.44 mmol, 0.643 g | CNC1=NOC(=N1)C(C)C1=CC(=CC=C1)C1(OCCO1)C1=CC=CC=C1 | C20H21N3O3
solvent | water | 4 ml | O | H2O
product | 3-methylamino-5-(1-(3-benzoylphenyl)ethyl)-1,2,4-oxadiazole | 0.446 g, 59% yield | CNC1=NOC(=N1)C(C)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O | C18H17N3O2
